US06582351B1
To a solution of 5-cyano-2-(trans-4-hydroxycyclohexylamino)-3-nitropyridine (3.35 g) in methanol (17 mL) and dioxane (17 mL) was added 10% palladium on activated carbon (383 mg) under nitrogen atmosphere. The mixture was shaken at room temperature under hydrogen atmosphere (3 atm) for 3 hours. The reaction mixture was filtered through a celite pad. The filtrate was concentrated in vacuo to give 3-amino-5-cyano-2-(trans-4-hydroxycyclohexylamino)pyridine (3.15 g) as a brown amorphous.

reactant | 5-cyano-2-(trans-4-hydroxycyclohexylamino)-3-nitropyridine | 3.35 g | C(#N)C=1C=C(C(=NC1)N[C@@H]1CC[C@H](CC1)O)[N+](=O)[O-] | C12H14N4O3
solvent | methanol | 17 mL | CO | CH4O
solvent | dioxane | 17 mL | O1CCOCC1 | C4H8O2
catalyst | palladium on activated carbon | 383 mg | [Pd] | Pd
product | 3-amino-5-cyano-2-(trans-4-hydroxycyclohexylamino)pyridine | 3.15 g | NC=1C(=NC=C(C1)C#N)N[C@@H]1CC[C@H](CC1)O | C12H16N4O
